US08003649B2
A solution of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (50 mg, 0.22 mmol) in ethanol (1 mL) was added to 3-(4-methoxyphenyl)pyrrolidine hydrochloride (71 mg, 0.33 mmol). The reaction mixture was treated with DIPEA (86 mg, 0.66 mmol) and the mixture was heated at 70° C. for 16 hours. The reaction mixture was evaporated to leave an involatile residue that was purified by preparative reverse phase chromatography to give 6-[3-(4-methoxyphenyl)pyrrolidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (45 mg, 55%).

reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.22 mmol, 50 mg | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | 3-(4-methoxyphenyl)pyrrolidine hydrochloride | 0.33 mmol, 71 mg | Cl.COC1=CC=C(C=C1)C1CNCC1
reactant | DIPEA | 0.66 mmol, 86 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 6-[3-(4-methoxyphenyl)pyrrolidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 45 mg, 55% | COC1=CC=C(C=C1)C1CN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C17H16F3N5O
